US08026257B2
tert-Butyl 4-(((5-chloro-1H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
Prepared according to the procedure used to prepare tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate using tert-butyl 4-(((5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate as the starting material. 1H-NMR (CDCl3, 500 MHz) δ 9.66 (bs, 1H), 7.98 (s, 1H), 7.74 (d, J=1.5 Hz, 1H), 7.31 (m, 3H), 7.13 (dd, J=8.6, 8.6 Hz, 2H), 5.46 (s, 1H), 3.60-3.90 (m, 4H), 3.07 (m, 2H), 2.18 (m, 2H), 1.82 (m, 2H), 1.43 (s, 9H); 13C NMR (126 MHz, CDCl3) δ ppm 171.2, 161.9 (d, J=248 Hz), 154.9, 137.4, 135.6, 134.4, 128.6 (d, J=7.7 Hz), 126.3, 125.5, 125.4, 122.0, 116.2 (d, J=21 Hz), 79.9, 78.9, 69.5, 41.1, 39.9 (br), 32.5, 32.3, 28.5.

reactant | tert-butyl 4-((1-(5-chloro-1H-indazol-7-yl)-2-methoxy-2-oxoethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(C(=O)OC)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C27H31ClFN3O5
reactant | tert-butyl 4-(((5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC1=CC2=CN(N=C2C(=C1)C(OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C#N)COCC[Si](C)(C)C | C32H42ClFN4O4Si
product | tert-Butyl 4-(((5-chloro-1H-indazol-7-yl)(cyano)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | ClC=1C=C2C=NNC2=C(C1)C(OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C#N | C26H28ClFN4O3
